US08242157B2
To a solution of N1-ethyl-4-fluoro-benzene-1,2-diamine (1.54 g, 10.0 mmol) in MeOH (20 mL) and H2O (20 mL) was added cyanogen bromide (2.1 mL, 10.5 mmol, 5.0 M in acetonitrile). The resulting mixture was stirred at room temperature overnight. The resulting mixture was then adjusted to pH>9 with concentrated NH4OH and the resulting solid was collected by filtration, washed with H2O and hexanes to yield 1-ethyl-5-fluoro-1H-benzimidazol-2-ylamine MS 180 (M+1)+.

reactant | N1-ethyl-4-fluoro-benzene-1,2-diamine | 10.0 mmol, 1.54 g | C(C)NC=1C(=CC(=CC1)F)N | C8H11FN2
reactant | cyanogen bromide | 10.5 mmol, 5.0 M, 2.1 mL | N#CBr | CBrN
reactant | NH4OH | [NH4+].[OH-]
solvent | MeOH | 20 mL | CO | CH4O
solvent | H2O | 20 mL | O | H2O
product | 1-ethyl-5-fluoro-1H-benzimidazol-2-ylamine | C(C)N1C(=NC2=C1C=CC(=C2)F)N | C9H10FN3
